US09388168B2
Preparation of N-[1-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-benzamide
N-(1H-Pyrazol-3-yl)-benzamide (2.5 g, 20 mmol) and 4-Chloro-benzenesulfonic acid 2,2-dimethyl-[1,3]dioxolan-4-ylmethyl ester (6.75 g, 22 mmol) were dissolved in anhydrous 1,4-dioxane (30 ml). Sodium tert-butoxide (2.28 g, 23.8 mmol) was added in one portion at room temperature. The yellow suspension was heated to reflux with agitation for 23 hrs. The mixture was cooled to 10° C., water (80 ml) was added. The mixture was extracted with ethyl acetate (30 ml*2), the organic layer was washed with 1N NaOH (20 ml), 10% aqueous NaCl (40 ml*2). The organic layer was dried over Na2SO4, concentrated under reduced pressure to give the crude product as oil. Purified by silicon column (hexane/EA=5:1 to hexane/EA=3:1) to give off-white solid (3 g), yield: 50%. 1H-NMR (400 MHz, d6-DMSO): δ 10.86 (s, 1H), 7.99-8.01 (d, 2H), 7.67 (s, 1H), 7.47-7.58 (m, 3H), 6.63 (s, 1H), 4.4-4.42 (m, 1H), 4.16-4.38 (m, 2H), 4.01-4.05 (m, 1H), 3.75-3.78 (m, 1H), 1.33 (s, 3H), 1.25 (s, 3H).

reactant | N-(1H-Pyrazol-3-yl)-benzamide | 20 mmol, 2.5 g | N1N=C(C=C1)NC(C1=CC=CC=C1)=O | C10H9N3O
reactant | 4-Chloro-benzenesulfonic acid 2,2-dimethyl-[1,3]dioxolan-4-ylmethyl ester | 22 mmol, 6.75 g | CC1(OCC(O1)COS(=O)(=O)C1=CC=C(C=C1)Cl)C | C12H15ClO5S
reactant | Sodium tert-butoxide | 23.8 mmol, 2.28 g | CC(C)([O-])C.[Na+]
reactant | water | 80 ml | O | H2O
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | N-[1-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-benzamide | 3 g, yield: 50% | CC1(OC[C@H](O1)CN1N=C(C=C1)NC(C1=CC=CC=C1)=O)C | C16H19N3O3
